US08202863B2
To a solution of benzamidine hydrochloride hydrate (2 mmol) in anhydrous DMF (4 mL) is added sodium salt of 2-dimethoxymethyl-3-hydroxy-acrylic acid methyl ester (0.46 g, 2.32 mmol) and the reaction mixture heated at 100° C. under N2 for 1 hour. The reaction is cooled to room temperature and water (15 mL) is added. After addition of water, immediate precipitation of the product is observed. The solids are collected by filtration, washed with water (2.5 mL) and vacuum dried to yield 2-phenyl-pyrimidine-5-carboxylic acid methyl ester (0.32 g, 74%). (see: P. Zhichkin, D. J. Fairfax, S. A. Eisenbeis, Synthesis, 2002, 720-722.)

reactant | benzamidine hydrochloride hydrate | 2 mmol | O.Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium | [Na] | Na
reactant | 2-dimethoxymethyl-3-hydroxy-acrylic acid methyl ester | 2.32 mmol, 0.46 g | COC(C(=CO)C(OC)OC)=O | C7H12O5
reactant | water | 15 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-phenyl-pyrimidine-5-carboxylic acid methyl ester | 0.32 g, 74% | COC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C12H10N2O2
